US09120777B2
I) 4-Iodo-3-methylpyridin-2(1H)-one
12M Hydrochloric acid (13 mL) was added to a solution of 2-fluoro-4-iodo-3-methylpyridine (12.2 g) in DME (15 mL) at room temperature. The mixture was stirred at 100 C for 1.5 hours with an alkali trap. Water (150 mL) was added to the reaction mixture at room temperature. The mixture was stirred at the same temperature for 2 hours. The precipitate was collected by filtration, washed with water. A suspension of the solid in ethanol (20 mL) was stirred at 80 C for 30 minutes. Diisopropyl ether (150 mL) was added to the mixture. The mixture was stirred at room temperature for 30 minutes. The precipitate was collected by filtration, washed with diisopropyl ether to give the title compound (9.82 g).

reactant | Hydrochloric acid | 12M, 13 mL | Cl | ClH
reactant | 2-fluoro-4-iodo-3-methylpyridine | 12.2 g | FC1=NC=CC(=C1C)I | C6H5FIN
reactant | Water | 150 mL | O | H2O
solvent | DME | 15 mL | COCCOC | C4H10O2
product | 4-Iodo-3-methylpyridin-2(1H)-one | 9.82 g | IC1=C(C(NC=C1)=O)C | C6H6INO
